US08067448B2
(R)-2-chloro-4-(1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)-3-hydroxypropylamino)-3-methylbenzonitrile
To a 25 mL round bottom flask equipped with a magnetic stirrer and a septum was added (R)-4-(3-(tert-butyldimethylsilyloxy)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile (900 mg, 177 mmol), which was then dissolved in anhydrous THF (50 mL) under an atmosphere of nitrogen and cooled to −40° C. To this was added the tetrabutylammonium fluoride as a 1M solution in THF (2.13 mL, 2.13 mmol) producing an instant color change to yellow. The mixture was then allowed to warm to −20° C. over a period of 2 h, at which point TLC analysis suggested the reaction was complete. The solvent was then removed under reduced pressure to yield a dark brown residue. This residue was taken up in EtOAc (40 mL) and washed with water (2×25 mL), brine (1×25 mL) and dried over Na2SO4. The solution was then filtered and concentrated under reduced pressure using rotary evaporation to reveal a yellow solid (1.08 g). Purification by flash column chromatography [EtOAc-hexanes (1:1) as eluent] afforded the title compound as a white crystalline solid (0.605 mg, 87%): 1H NMR (400 MHz, Acetone-d6, δ in ppm) 8.21 (d, J=9 Hz, 2H), 7.99 (d, J=9 Hz, 2H), 7.48 (d, J=9 Hz, 1H), 6.92 (d, J=9 Hz, 1H), 6.41 (d, J=9 Hz, 1H), 5.4 (m, 1H), 4.28-4.26 (m, 1H), 3.97-3.77 (m, 1H), 2.58-2.38 (m, 2H), 2.37.

reactant | (R)-4-(3-(tert-butyldimethylsilyloxy)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 177 mmol, 900 mg | [Si](C)(C)(C(C)(C)C)OCC[C@H](C=1OC(=NN1)C1=CC=C(C=C1)C#N)NC1=C(C(=C(C#N)C=C1)Cl)C | C26H30ClN5O2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
solvent | THF | 2.13 mmol, 2.13 mL | C1CCOC1 | C4H8O
product | (R)-2-chloro-4-(1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)-3-hydroxypropylamino)-3-methylbenzonitrile | 0.605 mg, 87% | ClC1=C(C#N)C=CC(=C1C)N[C@H](CCO)C=1OC(=NN1)C1=CC=C(C=C1)C#N | C20H16ClN5O2
